US05750531
Step 3: 6-Methyl-4-(2-methyl-4-fluorophenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.38 ml, 3.42 mmol) was added to a mixture solution of 6-methyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine (0.5 g, 1.8 mmol) and dimethylformamide(10 ml), 0.35 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 3.42 mmol, 0.38 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-methyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine | 1.8 mmol, 0.5 g | CC1=CC(=NC(=N1)N1C(C2=C(CC1)C=CS2)C)Cl | C13H14ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-4-(2-methyl-4-fluorophenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.35 g, Yield: 48% | Cl.CC1=CC(=NC(=N1)N1C(C2=C(CC1)C=CS2)C)NC2=C(C=C(C=C2)F)C | InChI=1S/C20H21FN4S.ClH/c1-12-10-16(21)4-5-17(12)23-18-11-13(2)22-20(24-18)25-8-6-15-7-9-26-19(15)14(25)3;/h4-5,7,9-11,14H,6,8H2,1-3H3,(H,22,23,24);1H
